US08222416B2
Potassium carbonate (246 mg, 1.78 mmol) was added to a solution of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-ol (310 mg, 0.59 mmol) in N,N-dimethylformamide (2 mL) at room temperature and stirred for 30 min. 2-Chloro-N,N-dimethyl-acetamide (0.061 mL, 0.59 mmol) was then added to the above mixture and stirred at room temperature for 13 h. The mixture was diluted with ethyl acetate (150 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-{1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-N,N-dimethyl-acetamide (340 mg, quant.) as a light yellow solid which was used in the next step without further purification: LC/MS m/e calcd for C31H33N3O6S2 [M+H]+ 608.75, observed 608.1.

reactant | Potassium carbonate | 1.78 mmol, 246 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-ol | 0.59 mmol, 310 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)O)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C27H26N2O5S2
reactant | 2-Chloro-N,N-dimethyl-acetamide | 0.59 mmol, 0.061 mL | ClCC(=O)N(C)C | C4H8ClNO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-{1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-N,N-dimethyl-acetamide | 340 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OCC(=O)N(C)C)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C31H33N3O6S2
